US06211215B1
In substantially the same manner as in Working Example 109, 1-[4-(4-hydroxyphenyl)butyl]imidazole was allowed to react with 2-(4-benzoylphenyl)-4-chloromethyloxazole to give 2-(4-benzoylphenyl)-4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]oxazole. The yield was 64%. Recrystallization from ethyl acetate-hexane gave colorless prisms, mp 91-92° C.

reactant | 1-[4-(4-hydroxyphenyl)butyl]imidazole | OC1=CC=C(C=C1)CCCCN1C=NC=C1 | C13H16N2O
reactant | 2-(4-benzoylphenyl)-4-chloromethyloxazole | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C=1OC=C(N1)CCl | C17H12ClNO2
product | 2-(4-benzoylphenyl)-4-[4-[4-(1-imidazolyl)butyl]phenoxymethyl]oxazole | yield was 64% | C(C1=CC=CC=C1)(=O)C1=CC=C(C=C1)C=1OC=C(N1)COC1=CC=C(C=C1)CCCCN1C=NC=C1 | C30H27N3O3
